US04272539
1-Methyl-1-methylaminocarbonyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole
4.8 g (0.02 mol) of methyl 1-methyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole-1-carboxylate are dissolved in 100 ml of ethanol saturated with methylamine. The solution is left at ambient temperature for 48 hours. The solvent is removed and the residue is then taken up in 20 ml of ethanol. The product is filtered off and washed with ethanol.

reactant | methyl 1-methyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole-1-carboxylate | 0.02 mol, 4.8 g | CC1(NCCC2=C1NC1=CC=CC=C21)C(=O)OC | C14H16N2O2
reactant | methylamine | CN | CH5N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-Methyl-1-methylaminocarbonyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole | CC1(NCCC2=C1NC1=CC=CC=C21)C(=O)NC | C14H17N3O
